US08003659B2
Step H: Synthesis of ethyl 4-fluorophenylphosphinate AZ2.
To a degassed mixture of 4-fluoro-1-iodo-benzene (25.0 g, 112.6 mmol), anilinium hypophosphite (21.5 g, 135.1 mmol) and 3-aminopropyl triethoxysilane (24.9 g, 135.1 mmol) in anhydrous acetonitrile (750 mL) were added palladium acetate (560 mg, 2.48 mmol) and 1,3-bis(diphenylphosphino)propane (1.02 g, 2.48 mmol). The mixture was heated under reflux overnight, then cooled down to room temperature, and the volatiles were removed in vacuo. The residue was diluted with ethyl acetate and hydrochloric acid (1 M) and partitioned. The aqueous layer was further extracted with ethyl acetate and the combined extracts were washed with aqueous sodium hydrogen carbonate and brine. The volatiles were removed in vacuo, then the residue was purified by column chromatography using 50 to 100% ethyl acetate in petroleum ether, affording compound AZ2 (10.1 g) as a dark orange oil in 48% yield.

reactant | 4-fluoro-1-iodo-benzene | 112.6 mmol, 25.0 g | FC1=CC=C(C=C1)I | C6H4FI
reactant | anilinium hypophosphite | 135.1 mmol, 21.5 g | [PH2](=O)[O-].[NH3+]C1=CC=CC=C1
reactant | 3-aminopropyl triethoxysilane | 135.1 mmol, 24.9 g | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
reactant | 1,3-bis(diphenylphosphino)propane | 2.48 mmol, 1.02 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | acetonitrile | 750 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 2.48 mmol, 560 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl 4-fluorophenylphosphinate | 48% yield | FC1=CC=C(C=C1)P(OCC)=O | C8H10FO2P
